US07994185B2
Step A: N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step A using N-{2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide (4.05 g, 8.83 mmol) and 4-morpholinecarbothioamide (1.29 g, 8.83 mmol), the title compound was obtained as a bright yellow solid (2.61 g; 48% yield). 1H NMR (400 MHz, DMSO-d6) d ppm 10.87 (s, 1H), 8.29 (d, J=5.5 Hz, 1H), 7.64-7.74 (m, 1H), 7.46-7.56 (m, 2H), 7.39 (dd, J=7.1, 1.7 Hz, 1H), 7.23 (t, J=9.1 Hz, 2H), 6.19 (d, J=5.5 Hz, 1H), 3.71 (t, J=4.6 Hz, 4H), 3.54 (t, J=4.3 Hz, 4H).

reactant | N-{2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide | 8.83 mmol, 4.05 g | ClC1=C(C=CC=C1/C(=C\C1=NC(=NC=C1)Cl)/O)NS(=O)(=O)C1=C(C=CC=C1F)F | C18H11Cl2F2N3O3S
reactant | 4-morpholinecarbothioamide | 8.83 mmol, 1.29 g | N1(CCOCC1)C(N)=S | C5H10N2OS
product | N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 48% yield | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)N1CCOCC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H17Cl2F2N5O3S2
